data/specific_train_final.csv
"CC(=O)CC(C)(C[O:21][O:20][O])O.[N+](=O)[O-]>>CC(=O)CC(C)(C[O:21])O.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:8][CH2:7][C:6]([CH3:9])([CH2:10][OH:11])[O:5][O:4][O:3][N+:2](=[O:1])[O-:12]>>[CH3:8][CH2:7][C:6]([CH3:9])([CH2:10][OH:11])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:12] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CCCCOC(CO)O[O:10]>>[H:20][O:10]OC(CO)OCCCC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:13][O:12][CH:11]([CH2:14][O:15][O:16][H:17])[C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[O:8][O:9][H:10].[He]>>[He].[H:13][O:12][CH:11]([CH2:14][O:15][O:16][H:17])[C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[O:8].[O:9][H:10] 8,9-9;8,9-8",Light,Initiation,homolyze
"[CH3:5][C:4](=[CH:6][CH2:7][OH:8])[CH2:3].[O:1][O:2]>>[CH3:5][C:4](=[CH2:3])[CH:6][CH2:7][OH:8].[O:1][O:2] 4,6-6; 4,6-3,4; 3-3,4",Room Temperature,Propagation,resonance
"CCCC12C=C[CH:10]C(C1O)OO2.[O:20][O]>>CCCC12C=C[CH:10](C(C1O)OO2)[O:20][O] 10-10,20;20-10,20
"CCCC(OCCO)OO[O:20][N+:21](=O)[O-]>>CCCC(OCCO)OO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCC(OCCO)O[O:20].[N+](=O)([O-])[O:10]>>CCCC(OCCO)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH2:8]1[CH:7]([O:9]1)[O:6][O:5][O:4][N+:2](=[O:1])[O-:3]>>[CH2:8]1[CH:7]([O:9]1)[O:6][O:5][O:4].[N+:2](=[O:1])[O-:3] 2,4-2; 2,4-4",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CC1=C(C=CC=C1)CO[O:10]>>[H:20][O:10]OCC1=C(C=CC=C1)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC(C(C)O[N+](=O)[O-])O[O:20].[N+](=O)([O-])[O:10]>>CCC(C(C)O[N+](=O)[O-])O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(CO)O[O:20].[N:10]=O>>CCCC(CO)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
[CH3:4][C:5]1=[C:6]([CH:9]=[CH:10][CH:11]=[CH:12]1)[CH2:7][O:8].[N:2](=[O:3])[O:1]>>[CH3:4][C:5]1=[C:6]([CH:9]=[CH:10][CH:11]=[CH:12]1)[CH2:7][O:8].[N+:2](=[O:3])[O-:1] 2-1,Room Temperature,Propagation,ha resonance
"CC1([CH:21][CH2:22][O:30]O1)C(O)OO>>CC(O[O:30])([CH:21]=[CH2:22])C(O)OO 30,22-22,21;22,30-30;21-21,22",Room Temperature,Propagation,retroaddition
"[H:20][CH:21](C)C(=O)CCC.[OH:10]>>[H:20][OH:10].CCCC(=O)[CH:21]C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CCCC(OC(=O)C)O[O:10]>>[H:20][O:10]OC(CCC)OC(=O)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
